US06734301B2
(Chart E, Step 1): A dry round bottom flask is charged with AlCl3 (66.7 mg, 0.5 mmol) and dichloromethane (4 mL) to make a heterogeneous solution. Dropwise addition of bromo-acetylbromide (0.044 mL, 0.5 mmol) turns the reaction into a homogeneous orange solution. After 30 minutes of stirring at ambient temperature, a solution of 2,2,2-trifluoro-1-(1,2,4,5-tetrahydro-3H-[1,4]diazepino[1,7-a]indol-3-yl)-1-ethanone (141.1 mg, 0.5 mmol) in dichloromethane (2 mL) is added dropwise and stirred for three days. The reaction turns dark purple within the first 4 hours of stirring. The reaction is poured in a sat. aq. NaHCO3 solution and extracted three times with dichloromethane. The combined organics are combined, dried with MgSO4, filtered and concentrated to 192 mg of a purple foam. The crude is purified by LC (230-400 silica gel) eluting with 10% ethyl acetate and 20% dichloromethane in heptane to afford 120 mg of 1-[11-(2-bromoacetyl)-1,2,4,5-tetrahydro-3H-[1,4]diazepino[1,7-a]indol-3-yl]-2,2,2-trifluoro-1-ethanone as a white foam.

reactant | AlCl3 | 0.5 mmol, 66.7 mg | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | bromo-acetylbromide | 0.5 mmol, 0.044 mL | BrCC(=O)Br | C2H2Br2O
reactant | 2,2,2-trifluoro-1-(1,2,4,5-tetrahydro-3H-[1,4]diazepino[1,7-a]indol-3-yl)-1-ethanone | 0.5 mmol, 141.1 mg | FC(C(=O)N1CCN2C(=CC=3C=CC=CC23)CC1)(F)F | C14H13F3N2O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | 1-[11-(2-bromoacetyl)-1,2,4,5-tetrahydro-3H-[1,4]diazepino[1,7-a]indol-3-yl]-2,2,2-trifluoro-1-ethanone | 120 mg | BrCC(=O)C1=C2N(C=3C=CC=CC13)CCN(CC2)C(C(F)(F)F)=O | C16H14BrF3N2O2
